US08389524B2
(b) 1,3-Dihydrofuro[3,4-c]pyridin-6-ylmethanol
A solution of ethyl 1,3-dihydrofuro[3,4-c]pyridine-6-carboxylate (0.871 g, 4.51 mmol) in THF (20 ml) at −78° C. under argon was treated with LiAlH4 (1M in THF) (4.51 ml, 4.51 mmol) and allowed warm to rt. After 10 min at rt, water (1 ml), 2M aq NaOH (1 ml) and water (1 ml) were sequentially added and the mixture stirred at rt for 0.5 h. The mixture was then filtered through a short pad of Kieselguhr, eluting with THF (50 ml), organic extracts were then evaporated, chromatographed (0-20% methanol/DCM) to give product as an orange oil (66 mg, 10%).

reactant | ethyl 1,3-dihydrofuro[3,4-c]pyridine-6-carboxylate | 4.51 mmol, 0.871 g | C1OCC=2C=NC(=CC21)C(=O)OCC | C10H11NO3
reactant | LiAlH4 | 4.51 mmol, 1M, 4.51 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1 ml | O | H2O
reactant | NaOH | 2M, 1 ml | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1,3-Dihydrofuro[3,4-c]pyridin-6-ylmethanol | 66 mg, 10% | C1OCC=2C=NC(=CC21)CO | C8H9NO2
